US04824961
Preparation of Methyl α-Benzylindole-3-acetate
To a solution of α-benzylindole-3-acetic acid (12 g) in methanol (200 mL), was added 2 mL of concentrated H2SO4 ; the mixture was stirred at reflux temperature for 2 hours. The reaction mixture was concentrated under reduced pressure to a volume of about 50 mL, then diluted with 200 mL of toluene. The toluene solution was washed with water, saturated NaHCO3 solution, and again with water. On evaporation, if afforded 12.3 g (97.6% crude yield) of product as a light brown viscous oil. The crude product slowly crystallized on standing at room temperature. It was triturated with heptane to give fine white crystals, m.p. 62°-68° C.

reactant | α-benzylindole-3-acetic acid | 12 g | C(C1=CC=CC=C1)C(C(=O)O)C1=CNC2=CC=CC=C12 | C17H15NO2
reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | Methyl α-Benzylindole-3-acetate | C(C1=CC=CC=C1)C(C(=O)OC)C1=CNC2=CC=CC=C12 | C18H17NO2
